US04155913
0.4 g of 2-chloro-4-(o-chlorophenyl)-9-(α-hydroxyethyl)-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]diazepine are boiled under reflux for 48 hours in 80 ml of dry toluene with 0.6 g of chromtrioxide embedded in graphite. The solid material is filtered off and the solution evaporated. The residue is recrystallized from ethanol, there being obtained 9-acetyl-2-chloro-4-(o-chlorophenyl)-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]diazepine of melting point 89°-91° C.

reactant | 2-chloro-4-(o-chlorophenyl)-9-(α-hydroxyethyl)-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]diazepine | 0.4 g | ClC1=CC=2C(=NCC=3N(C2S1)C(=NN3)C(C)O)C3=C(C=CC=C3)Cl | C16H12Cl2N4OS
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 9-acetyl-2-chloro-4-(o-chlorophenyl)-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]diazepine | C(C)(=O)C1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=C(S1)Cl | C16H10Cl2N4OS
